US07175854B2
carbaril;
clidafidine; cypermethrin; eprinomectin; fenclofos; fenvaierate; ivermectin; lindane; moxidectin; nifluridide; permethrin; temefos.

reactant | clidafidine | C1=CC(=C(C(=C1)Cl)/N=C\2/NCCO2)Cl | C9H8Cl2N2O
reactant | cypermethrin | CC1(C(C1C(=O)OC(C#N)C=2C=CC=C(C2)OC=3C=CC=CC3)C=C(Cl)Cl)C | C22H19Cl2NO3
reactant | eprinomectin | CC[C@H](C)C1[C@H](C=C[C@@]2(O1)C[C@@H]3CC(O2)C/C=C(/[C@H]([C@H](/C=C/C=C/4\CO[C@H]5[C@@]4([C@@H](C=C([C@H]5O)C)C(=O)O3)O)C)O[C@H]6C[C@@H]([C@H]([C@@H](O6)C)O[C@H]7C[C@@H]([C@@H]([C@@H](O7)C)NC(=O)C)OC)OC)\C)C | C50H75NO14
reactant | fenclofos | COP(=S)(OC)OC=1C=C(C(=CC1Cl)Cl)Cl | C8H8Cl3O3PS
reactant | fenvaierate | CC(C)C(C=1C=CC(=CC1)Cl)C(=O)OC(C#N)C=2C=CC=C(C2)OC=3C=CC=CC3 | C25H22ClNO3
reactant | ivermectin | CC[C@H](C)[C@@H]1[C@H](CC[C@@]2(O1)C[C@@H]3C[C@H](O2)C/C=C(/[C@H]([C@H](/C=C/C=C/4\CO[C@H]5[C@@]4([C@@H](C=C([C@H]5O)C)C(=O)O3)O)C)O[C@H]6C[C@@H]([C@H]([C@@H](O6)C)O[C@H]7C[C@@H]([C@H]([C@@H](O7)C)O)OC)OC)\C)C.C[C@H]1CC[C@]2(C[C@@H]3C[C@H](O2)C/C=C(/[C@H]([C@H](/C=C/C=C/4\CO[C@H]5[C@@]4([C@@H](C=C([C@H]5O)C)C(=O)O3)O)C)O[C@H]6C[C@@H]([C@H]([C@@H](O6)C)O[C@H]7C[C@@H]([C@H]([C@@H](O7)C)O)OC)OC)\C)O[C@@H]1C(C)C
reactant | lindane | [C@@H]1([C@@H]([C@@H]([C@H]([C@@H]([C@@H]1Cl)Cl)Cl)Cl)Cl)Cl | C6H6Cl6
reactant | moxidectin | C[C@@H]\1C/C(=C/C[C@@H]2C[C@@H](C[C@@]3(O2)C/C(=N\OC)/[C@@H]([C@H](O3)/C(=C/C(C)C)/C)C)OC(=O)[C@@H]4C=C([C@H]([C@@H]5[C@]4(/C(=C/C=C1)/CO5)O)O)C)/C | C37H53NO8
reactant | nifluridide | C=1C(=CC(=C(C1NC(=O)C(C(F)F)(F)F)N)[N+](=O)[O-])C(F)(F)F | C10H6F7N3O3
reactant | permethrin | CC1(C(C1C(=O)OCC=2C=CC=C(C2)OC=3C=CC=CC3)C=C(Cl)Cl)C | C21H20Cl2O3
reactant | temefos | COP(=S)(OC)OC=1C=CC(=CC1)SC=2C=CC(=CC2)OP(=S)(OC)OC | C16H20O6P2S3
product | carbaril | CNC(=O)OC=1C=CC=C2C1C=CC=C2 | C12H11NO2
